US08633173B2
N(8)-(3-Methoxy-benzyl)-N(2)-(6-methoxy-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(3-methoxy-benzyl)-amine (99.9 mg, 0.346 mmol) and 5-amino-2-methoxypyridine (48.11 mg, 0.3875 mmol) in a manner analogous to Example 2d. Product was isolated as a red foam (41.48 mg, 32%). 1H NMR (400 MHz, CD3OD, δ, ppm): 8.42 (s, 1H), 8.04 (d, J=9 Hz, 1H), 7.83 (d, J=6.5 Hz, 1H), 7.24 (m, 1H), 6.98 (s, 2H), 6.83-6.71 (m, 3H), 6.40 (d, J=7.4 Hz, 1H), 4.48 (s, 2H), 3.88 (s, 3H), 3.76 (s, 3H). MS=377 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(3-methoxy-benzyl)-amine | 0.346 mmol, 99.9 mg | ClC1=NN2C(C(=CC=C2)NCC2=CC(=CC=C2)OC)=N1 | C14H13ClN4O
reactant | 5-amino-2-methoxypyridine | 0.3875 mmol, 48.11 mg | NC=1C=CC(=NC1)OC | C6H8N2O
product | N(8)-(3-Methoxy-benzyl)-N(2)-(6-methoxy-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | COC=1C=C(CNC=2C=3N(C=CC2)N=C(N3)NC=3C=NC(=CC3)OC)C=CC1 | C20H20N6O2
